US08557834B2
N-{[1-(1-Acetyl-3-piperidinyl)-3-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl]carbonyl}glycine
A solution of N-{[3-cyclohexyl-6-hydroxy-2,4-dioxo-1-(3-piperidinyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]carbonyl}glycine (500 mg, 1.26 mmoles) in acetic acid (5.0 mL) and acetic anhydride (5.0 mL) was heated at 130° C. for 2 hours. The mixture was cooled, diluted with ethyl acetate and washed with 1 molar hydrochloric acid (×3), dried and evaporated. Flash chromatography (dichloromethane to 4% methanol-0.1% acetic acid in dichloromethane) and recrystallization from ethanol-water gave the title compound (170 mg, 31%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.10 (br. s., 1 H), 10.17 (s, 1 H), 4.46-4.73 (m, 2 H), 4.25-4.46 (m, 1H), 4.13 (d, J=5.56 Hz, 2 H), 3.67-3.92 (m, J=4.55 Hz, 1 H), 3.24-3.43 (m, 1 H), 2.94 (t, J=12.63 Hz, 1 H), 2.34-2.48 (m, 1 H), 2.25 (m, 2 H), 1.97, 2.02 (2×s, 3 H), 1.69-1.87 (m, 4 H), 1.62 (m, 3 H), 1.41-1.57 (m, 1 H), 1.19-1.37 (m, 2 H), 0.97-1.18 (m, 1 H)

reactant | N-{[3-cyclohexyl-6-hydroxy-2,4-dioxo-1-(3-piperidinyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]carbonyl}glycine | 1.26 mmoles, 500 mg | C1(CCCCC1)N1C(N(C(=C(C1=O)C(=O)NCC(=O)O)O)C1CNCCC1)=O | C18H26N4O6
reactant | acetic acid | 5.0 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 5.0 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{[1-(1-Acetyl-3-piperidinyl)-3-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl]carbonyl}glycine | 170 mg, 31% | C(C)(=O)N1CC(CCC1)N1C(N(C(C(=C1O)C(=O)NCC(=O)O)=O)C1CCCCC1)=O | C20H28N4O7
